2107-09-19 09:25:00 Physician Attending Progress Note
Chief Complaint: poor MS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 yo women with hep C, autoimmune hepatitis, HIV+, was ready to be
   discharged from rehab yesterday after stay following hospital admission
   for liver issues.  Last night lethargic.  CXR showed RLL atelectasis.
   in ED was complaining of pain, but didn't localize.  ED 86/40, T99.6.
   Got 2L and BP went to 100s/50s.  Got cultures drawn, antibiotics Vanco,
   Zosyn, CTX, acyclovir.  No ascites on U/S so not tapped.  NH at 111.
   No LP done.  On arrival to the floor looked uncomfortable.
   24 Hour Events:
   Allergies:
   Nicotine
   Coma?;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   cytopenia;
   Last dose of Antibiotics:
   Acyclovir - [**2107-9-18**] 08:20 PM
   Infusions:
   Other ICU medications:
   Other medications:
   vanco
   acyclovir
   ctx
   zosyn
   Changes to medical and family history:
   HAART since [**2098**]
   Autoimmune hepatitis and hep C dx in [**2098**]
   SB resection with and ostomy for recurrent GIB
   portal gastropathy
   severe esophagitis
   Meds:  Lactulose, dapsone, coletra, truvada, lasix, aldactone, flonase,
   cipro, oxycodone IR.  Smoke 1 ppd.
   Brother with [**Name2 (NI) 4701**]-1 antitrypsin, with liver transpant.
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-9-19**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 86 (81 - 124) bpm
   BP: 102/38(53) {71/24(37) - 102/47(60)} mmHg
   RR: 15 (10 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.4 kg (admission): 55.4 kg
           Total In:
                                                                  1,100 mL
                                                                  1,728 mL
   PO:
           TF:
   IVF:
                                                                  1,100 mL
                                                                    500 mL
   Blood products:
   1,228 mL
   Total out:
                                                                    210 mL
                                                                    810 mL
   Urine:
                                                                    210 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    890 mL
                                                                    918 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, colostomy with greenish brown stool
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): person only,
   Movement: Not assessed, Tone: Not assessed, +asteriskis
   Labs / Radiology
   9.4 g/dL
   79 K/uL
   111 mg/dL
   1.8 mg/dL
   18 mEq/L
   4.1 mEq/L
   48 mg/dL
   107 mEq/L
   135 mEq/L
   27.5 %
   18.1 K/uL
        [image002.jpg]
                             [**2107-9-18**]  08:36 PM
                             [**2107-9-19**]  02:39 AM
   WBC
   18.6
   18.1
   Hct
   29.4
   27.5
   Plt
   80
   79
   Cr
   1.9
   1.8
   Glucose
   119
   111
   Other labs: PT / PTT / INR:18.3/50.2/1.7, ALT / AST:46/87, Alk Phos / T
   Bili:93/6.7, Lactic Acid:2.2 mmol/L, Albumin:2.1 g/dL, LDH:382 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Imaging: head CT: no bleed or evidence of mass.
   Microbiology: blood cx with staph
   Assessment and Plan
   Poor Mental Status:  Likely hepatic encephalopathy, high WBC,
   suspicious for infection.  Blood culture just positive for staph, so
   doubt meningitis.
   Staph bacteremia:  unclear source, but has new murmur this morning;
   D/C other antibiotics.  TTE to r/o endocarditis
   ARF:  improved with IV hydration.
   HIV:  restart  HAART currently continue dapsone.
   ESLD:  Continue lactulose.  holding lasix and aldactone.   Will give
   1mg/kg albumin to expand intravascular volume.  Can check hep C.
   Will get records from [**Hospital1 147**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2107-9-18**] 08:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2107-09-20 10:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 yo with HIV, cirrhosis.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2107-9-19**] 02:40 PM - MV vegetation.  2+ MR
 ULTRASOUND - At [**2107-9-19**] 03:00 PM - tips patent.
   abd US
   head CT unremarkable.
   More awake.  Thirsty, hungry.  Denies pain.
   Allergies:
   Nicotine
   Coma?;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   cytopenia;
   Last dose of Antibiotics:
   Acyclovir - [**2107-9-18**] 08:20 PM
   Infusions:
   Other ICU medications:
   Other medications:
   vanco
   fesSO4
   protonix
   lactulose
   truvada
   morphine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-9-20**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 113 (77 - 113) bpm
   BP: 124/64(78) {89/37(42) - 124/64(78)} mmHg
   RR: 20 (5 - 20) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 55.4 kg (admission): 55.4 kg
             Total In:
                                                                  2,613 mL
                                                                    986 mL
   PO:
                                                                    420 mL
                                                                    880 mL
   TF:
   IVF:
                                                                    650 mL
                                                                    106 mL
   Blood products:
                                                                  1,528 mL
   Total out:
                                                                  2,790 mL
                                                                  1,150 mL
   Urine:
                                                                  2,790 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -177 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, Restricted motion of right shoulder.
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   72 K/uL
   102 mg/dL
   1.7 mg/dL
   21 mEq/L
   3.2 mEq/L
   46 mg/dL
   108 mEq/L
   140 mEq/L
   23.1 %
   9.3 K/uL
        [image002.jpg]
                             [**2107-9-18**]  08:36 PM
                             [**2107-9-19**]  02:39 AM
                             [**2107-9-20**]  02:03 AM
                             [**2107-9-20**]  04:37 AM
   WBC
   18.6
   18.1
   9.5
   9.3
   Hct
   29.4
   27.5
   21.8
   23.1
   Plt
   80
   79
   69
   72
   Cr
   1.9
   1.8
   1.7
   Glucose
   119
   111
   102
   Other labs: PT / PTT / INR:18.9/64.6/1.7, ALT / AST:32/60, Alk Phos / T
   Bili:65/9.3, Lactic Acid:2.2 mmol/L, Albumin:2.1 g/dL, LDH:213 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: urine: Staph Aureus
   HIV VL 679
   Assessment and Plan
   MRSA sepsis:  continue vanco.
   MV endocarditis
   Has chronic LBP and hardware in spine:  Will image with MRI.
   Right shoulder pain:  Will get XR, and ortho consult - may need tap to
   r/o septic joint.
   HIV:  Continue HAART and atovaquone
   hepatology consult:  Hep C VL negative.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2107-9-18**] 08:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes